US04786646
A solution of 3.3 g of (E)-4-(4-isoquinolinyl)-3-buten-1-ol in 15 mL of dry chloroform was added to a cold solution of 1.8 mL of thionyl chloride in 5 mL of dry chloroform. After 15 minutes, the cooling bath was removed and the reaction was stirred at room temperature for 1 hour and then at reflux for 3 hours. The cooled mixture was washed with NaHCO3 solution and with brine, then was dried (Na2SO4) and evaporated. The residue was purified by chromatography over silica gel (ethyl acetate-toluene; 3:17) to yield 2.2 g of (E)-4-(4-chloro-1-butenyl)isoquinoline as an oil.

reactant | (E)-4-(4-isoquinolinyl)-3-buten-1-ol | 3.3 g | C1=NC=C(C2=CC=CC=C12)/C=C/CCO | C13H13NO
reactant | thionyl chloride | 1.8 mL | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | 15 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 5 mL | C(Cl)(Cl)Cl | CHCl3
product | (E)-4-(4-chloro-1-butenyl)isoquinoline | 2.2 g | ClCC/C=C/C1=CN=CC2=CC=CC=C12 | C13H12ClN
